### PR TITLE
[Merged by Bors] - chore(MetricSpace/Baire): fix Encodable/Countable

### PR DESCRIPTION
**Pull request by urkud**
- Assume `{ι : Sort*} [Countable ι]`
  instead of `{ι : Type*} [Encodable ι]`.
- Generalize 2nd Baire theorem from T₂ spaces to R₁ spaces.
- Rename type variables.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/Baire.lean [hunk 1]
```diff
@@ -144,88 +142,79 @@ instance (priority := 100) BaireSpace.of_pseudoEMetricSpace_completeSpace [Pseud
...
   rw [← sInter_image]
-  apply dense_sInter_of_isOpen
-  · rwa [ball_image_iff]
-  · exact hS.image _
-  · rwa [ball_image_iff]
+  refine dense_sInter_of_isOpen ?_ (hS.image _) ?_ <;> rwa [ball_image_iff]
 #align dense_bInter_of_open dense_biInter_of_isOpen
 
 /-- Baire theorem: a countable intersection of dense open sets is dense. Formulated here with
 an index set which is an encodable type. -/
```
Comment (sgouezel) [inline Mathlib/Topology/MetricSpace/Baire.lean:210]:
```suggestion
an index set which is a countable type. -/
```

File: Mathlib/Topology/MetricSpace/Baire.lean [hunk 2]
```diff
@@ -236,47 +225,45 @@ theorem mem_residual {s : Set α} : s ∈ residual α ↔ ∃ t ⊆ s, IsGδ t 
...
     (hd : ∀ s ∈ S, Dense s) : Dense (⋂₀ S) :=
-dense_of_mem_residual ((countable_sInter_mem hS).mpr
-  (fun _ hs => residual_of_dense_Gδ (ho _ hs) (hd _ hs)))
+  dense_of_mem_residual ((countable_sInter_mem hS).mpr
+    (fun _ hs => residual_of_dense_Gδ (ho _ hs) (hd _ hs)))
 set_option linter.uppercaseLean3 false in
 #align dense_sInter_of_Gδ dense_sInter_of_Gδ
 
 /-- Baire theorem: a countable intersection of dense Gδ sets is dense. Formulated here with
 an index set which is an encodable type. -/
```
Comment (sgouezel) [inline Mathlib/Topology/MetricSpace/Baire.lean:248]:
```suggestion
an index set which is a countable type. -/
```

File: Mathlib/Topology/MetricSpace/Baire.lean [hunk 3]
```diff
@@ -324,29 +311,29 @@ set_option linter.uppercaseLean3 false in
...
 /-- Baire theorem: if countably many closed sets cover the whole space, then their interiors
 are dense. Formulated here with `⋃₀`. -/
-theorem dense_sUnion_interior_of_closed {S : Set (Set α)} (hc : ∀ s ∈ S, IsClosed s)
+theorem dense_sUnion_interior_of_closed {S : Set (Set X)} (hc : ∀ s ∈ S, IsClosed s)
     (hS : S.Countable) (hU : ⋃₀ S = univ) : Dense (⋃ s ∈ S, interior s) :=
   isGδ_univ.dense_sUnion_interior_of_closed dense_univ hS hc hU.ge
 #align dense_sUnion_interior_of_closed dense_sUnion_interior_of_closed
 
 /-- Baire theorem: if countably many closed sets cover the whole space, then their interiors
 are dense. Formulated here with an index set which is an encodable type. -/
```
Comment (sgouezel) [inline Mathlib/Topology/MetricSpace/Baire.lean:327]:
```suggestion
are dense. Formulated here with an index set which is a countable type. -/
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
